US05885986
A stream of hydrogen sulphide was conducted for 1/2 hr. through a solution of 5.0 g (0.020 mol) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile in 100 ml of pyridine and 1 ml of triethylamine. The dark brown solution was left to stand for 70 hrs., then degassed with a stream of nitrogen and subsequently completely freed from the solvents. The residue was partitioned between dichloromethane and water and extracted. The pale yellow product was chromatographed over silica gel with ethyl acetate as the eluent, stirred vigorously in ether for 16 hrs. and subsequently filtered off under suction. There were obtained 3.8 g (67%) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo-[1,5-a][1,4]benzodiazepine-1-thiocarboxamide as pale yellow crystals; m.p. 227°-230° and [α]D20 =-473.7° (DMF, c=1%).

reactant | hydrogen sulphide | S | H2S
reactant | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile | 0.020 mol, 5.0 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C#N)CC2 | C14H10N4O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo-[1,5-a][1,4]benzodiazepine-1-thiocarboxamide | 3.8 g, 67% | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(N)=S)CC2 | C14H12N4OS
